US07935688B2
(1) Synthesis of [3-(t-butyl-diphenyl-silanyloxy)-5-hydroxy-phenyl]-acetic Acid Methyl Ester
Imidazole (230 mg, 3.38 mmol) was added to a solution of 3,5-dihydroxyphenylacetic acid methyl ester (530 mg, 2.91 mmol) in tetrahydrofuran (6.7 mL)-dichloromethane (6.7 mL) at room temperature. t-Butylchlorodiphenylsilane (0.75 mL, 2.9 mmol) was added under cooling with ice. Then, the ice bath was removed, and the mixture was stirred at room temperature for three hours. The reaction mixture was diluted with diethyl ether. 50% saturated aqueous ammonium chloride was added, followed by extraction with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=3/1) to give the title compound (470 mg, 33%).

reactant | Imidazole | 3.38 mmol, 230 mg | N1C=NC=C1 | C3H4N2
reactant | 3,5-dihydroxyphenylacetic acid methyl ester | 2.91 mmol, 530 mg | COC(CC1=CC(=CC(=C1)O)O)=O | C9H10O4
reactant | dichloromethane | 6.7 mL | ClCCl | CH2Cl2
reactant | t-Butylchlorodiphenylsilane | 2.9 mmol, 0.75 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | tetrahydrofuran | 6.7 mL | O1CCCC1 | C4H8O
product | [3-(t-butyl-diphenyl-silanyloxy)-5-hydroxy-phenyl]-acetic Acid Methyl Ester | 470 mg, 33% | COC(CC1=CC(=CC(=C1)O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C25H28O4Si
